US08754225B2
Step A: (2,2-Dimethoxyethyl)methylcarbamic Acid Benzyl Ester
K2CO3 (8.4 kg, 60 mol, 1.8 eq.) and H2O (49.3 kg, 2.6 volumes) were placed in the reaction vessel and stirred. N-methylaminoacetaldehyde dimethylacetal (6.5 kg, 54 mol, 1.6 eq) and MeTHF (20.2 kg, 2.9 volumes) were added. The resulting mixture was cooled to 5° C. Benzyl chloroformate (6.8 kg, 37.6 mol, 1.1 eq.) was added over a period of about 30 minutes, while maintaining the temperature below 10° C. The feed line was rinsed with MeTHF (4.3 kg). The mixture was then maintained at 5° C. and stirred for 1 hour. The layers were separated and the organic layer was washed with 1N HCl (14.3 kg, 11.7 mol, 1.4 volumes) and used directly in the next step.

reactant | K2CO3 | 60 mol, 8.4 kg, 1.8 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | N-methylaminoacetaldehyde dimethylacetal | 54 mol, 6.5 kg, 1.6 eq | COC(CNC)OC | C5H13NO2
reactant | MeTHF | 20.2 kg | CC1CCCO1 | C5H10O
reactant | Benzyl chloroformate | 37.6 mol, 6.8 kg, 1.1 eq. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | HCl | 11.7 mol, 1N, 14.3 kg | Cl | ClH
solvent | H2O | 49.3 kg | O | H2O
product | (2,2-Dimethoxyethyl)methylcarbamic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(N(C)CC(OC)OC)=O | C13H19NO4
